US05468604
A dispersion of 6.75 g bis(ethylhexyl) sulfoxide and a 0.75 g hexadecane (logP(calc) =9.16) was prepared as above (dispersion G). A similar dispersion of 6.75 g dipentyl phthalate and 0.75 g tridecylbromide (logP(calc) =7.42) was similarly prepared (dispersion H). Thus, dispersion G is an embodiment of the present invention while H lies outside the scope of our invention. As can be see in FIG. 4, the prior art (dispersion A and E) and dispersion H show substantial particle growth, while our invention, as illustrated in dispersion G, shows very little particle growth.

reactant | bis(ethylhexyl) sulfoxide | 6.75 g | C(C)C(CCCCC)S(=O)C(CCCCC)CC | C16H34OS
reactant | dipentyl phthalate | 6.75 g | C(C=1C(C(=O)OCCCCC)=CC=CC1)(=O)OCCCCC | C18H26O4
reactant | tridecylbromide | 0.75 g | C(CCCCCCCCCCCC)Br | C13H27Br
product | hexadecane | 0.75 g | CCCCCCCCCCCCCCCC | C16H34
